US07183445B2
A mixture of 2,3-diphenyl-1,3-butadiene (2.772 g, 13.44 mmol) and cyclopent-2-enone (1 eq.) was refluxed in toluene (26 mL) for 48 h. The reaction mixture was then concentrated and purified on SiO2 (20% ethyl acetate/hexane) to yield 5,6-diphenyl-2,3,3a,4,7,7a-hexahydro-inden-1-one.

reactant | 2,3-diphenyl-1,3-butadiene | 13.44 mmol, 2.772 g | C1(=CC=CC=C1)C(=C)C(=C)C1=CC=CC=C1 | C16H14
reactant | cyclopent-2-enone | 1 eq. | C1(C=CCC1)=O | C5H6O
solvent | toluene | 26 mL | C1(=CC=CC=C1)C | C7H8
product | 5,6-diphenyl-2,3,3a,4,7,7a-hexahydro-inden-1-one | C1(=CC=CC=C1)C=1CC2CCC(C2CC1C1=CC=CC=C1)=O | C21H20O
